US07018988B2
(2S,4EZ)-1-acetyl-4-{[(3,4-dichlorobenzyl)oxy]imino}-N-(1-naphthylmethyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, acetyl chloride, and 1-naphthylmethylamine the title compound was obtained in 60% purity by LC/MS. MS(ESI+): m/z=484.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(=O)O | C17H20Cl2N2O5
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | 1-naphthylmethylamine | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
product | (2S,4EZ)-1-acetyl-4-{[(3,4-dichlorobenzyl)oxy]imino}-N-(1-naphthylmethyl)-2-pyrrolidinecarboxamide | C(C)(=O)N1[C@@H](CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(=O)NCC1=CC=CC2=CC=CC=C12 | C25H23Cl2N3O3
